US04871734
2-(2-Dimethylaminobenzylmercapto)-1H-thieno[3,4-d]imidazole
2.9 g of 2-dimethylaminobenzyl bromide hydrobromide are added to a solution of 1.56 g of 2-mercaptothieno[3,4-d]imidazole in 20 ml of anhydrous dimethylacetamide. A crystalline precipitate separates out in a weakly exothermic reaction. The mixture is stirred at room temperature for one hour, acetone is added, and the crystals are filtered off and dried in a stream of air. The crystalline solid is then introduced into saturated aqueous NaHCO3 solution, the mixture is heated briefly on a steam bath and, after stirring at room temperature, the crystals are filtered off. Treatment with active charcoal in ethanol and concentration is followed by solution being induced to crystallize with a little acetone.

reactant | 2-dimethylaminobenzyl bromide hydrobromide | 2.9 g | Br.CN(C1=C(CBr)C=CC=C1)C
reactant | 2-mercaptothieno[3,4-d]imidazole | 1.56 g | SC=1NC=2C(N1)=CSC2 | C5H4N2S2
reactant | acetone | CC(=O)C | C3H6O
solvent | dimethylacetamide | 20 ml | CC(=O)N(C)C | C4H9NO
product | 2-(2-Dimethylaminobenzylmercapto)-1H-thieno[3,4-d]imidazole | CN(C1=C(CSC2=NC=3C(N2)=CSC3)C=CC=C1)C | C14H15N3S2
